US08871756B2
(R)-1-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-4,4-dimethyl-pyrrolidin-3-ol
The title compound was prepared in analogy to Example 3-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and (3R)-4,4-dimethylpyrrolidin-3-ol. MS obsd. (ESI+) [(M+H)+] 452, 1H NMR (400 MHz, CD3OD) δ ppm 7.94 (dd, J=7.83, 1.01 Hz, 1 H), 7.83-7.73 (m, 2 H), 7.58 (td, J=7.58, 1.26 Hz, 1 H), 7.47-7.37 (m, 2 H), 7.23 (dd, J=8.59, 1.77 Hz, 1 H), 6.03 (s, 1 H), 5.11 (s, 2 H), 4.02 (dd, J=10.36, 5.31 Hz, 1 H), 3.93 (dd, J=5.05, 3.79 Hz, 1 H), 3.61-3.47 (m, 4 H), 2.37 (s, 3 H), 1.15 (s, 3 H), 1.10-1.05 (m, 3 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | (3R)-4,4-dimethylpyrrolidin-3-ol | CC1([C@H](CNC1)O)C | C6H13NO
product | (R)-1-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-4,4-dimethyl-pyrrolidin-3-ol | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)N2C[C@@H](C(C2)(C)C)O)C)=O | C25H29N3O3S
